US04639536
Preferably, in this step, the intermediate 2-(2-hydroxy-2-methylpropoxy)phenol is combined with para-toluensulfonic acid and toluene and heated to reflux (approximately 111° C.) to produce carbofuran phenol.

reactant | 2-(2-hydroxy-2-methylpropoxy)phenol | OC(COC1=C(C=CC=C1)O)(C)C | C10H14O3
reactant | para-toluensulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | toluene | C1(=CC=CC=C1)C | C7H8
product | carbofuran phenol | CC1(CC2=C(O1)C(=CC=C2)O)C | C10H12O2
